US07846355B2
1-Bromo-3,3,4,4,4-pentafluoro-1-butene may be prepared by a three-step sequence beginning with reaction of phosphorous tribromide with 3,3,4,4,4-pentafluoro-1-butanol to give 4-bromo-1,1,1,2,2-pentafluorobutane. Thermal bromination of 4-bromo-1,1,1,2,2-pentafluorobutane at 350-400° C. gives 4,4-dibromo-1,1,1,2,2-pentafluorobutane, which may in turn be heated with powdered potassium hydroxide to give the desired bromobutene.

reactant | 1-Bromo-3,3,4,4,4-pentafluoro-1-butene | BrC=CC(C(F)(F)F)(F)F | C4H2BrF5
reactant | phosphorous tribromide | P(Br)(Br)Br | Br3P
reactant | 3,3,4,4,4-pentafluoro-1-butanol | FC(CCO)(C(F)(F)F)F | C4H5F5O
product | 4-bromo-1,1,1,2,2-pentafluorobutane | BrCCC(C(F)(F)F)(F)F | C4H4BrF5
